US08017602B2
To a stirred solution of cyclopentanamine (5 g) in methanol (20 mL) was added 2,2-dimethoxyacetaldehyde 60% in water (8.86 mL) and the mixture stirred at ambient temperature for 5 h. A slurry of palladium on carbon (10%, 200 mg) in methanol (5 mL) was added and the mixture hydrogenated at 5 bar for 16 h. It was filtered and concentrated in vacuo to afford N-(2,2-dimethoxyethyl)cyclopentanamine (9.44 g) as a oil. 1H NMR (400 MHz, CDCl3) δ 4.47 (t, J=5.6 Hz, 1H), 3.39 (s, 6H), 3.05 (quintet, J=6.8 Hz, 1H), 2.72 (d, J=5.4 Hz, 2H), 1.89-1.80 (m, 2H), 1.73-1.62 (m, 2H), 1.58-1.48 (m, 2H), 1.36-1.27 (m, 2H)

reactant | cyclopentanamine | 5 g | C1(CCCC1)N | C5H11N
reactant | 2,2-dimethoxyacetaldehyde | COC(C=O)OC | C4H8O3
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 8.86 mL | O | H2O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | N-(2,2-dimethoxyethyl)cyclopentanamine | 9.44 g | COC(CNC1CCCC1)OC | C9H19NO2
